US04748239
(H) (cis)-3-(Acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-6-nitro-2H-1-benzazepin-2-one, monohydrochloride
A stirred suspension of the hydrochloride salt of (cis)-3-(hydroxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-6-nitro-2H-1-benzazepin-2-one, monohydrochloride (approximately 1.93 mmol) in 30 ml of acetic anhydride was heated to 100° C. (oil bath) and the resulting solution heated at 110°-120° C. for 4.5 hours. After removing the bulk of acetic anhydride on a rotary evaporator at 0.2 mm, the solid residue (2 g) was rubbed under 10 ml of ethyl acetate and diluted portionwise with 20 ml of ether. After cooling overnight, the colorless solid was filtered under argon, washed with ether and dried in vacuo; yield, 0.84 g; melting point 198°-200° C. (dec.), s. 192° C.

reactant | (cis)-3-(hydroxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-6-nitro-2H-1-benzazepin-2-one, monohydrochloride | approximately 1.93 mmol | Cl.O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C(=CC=C2)[N+](=O)[O-])CCN(C)C)=O
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (cis)-3-(Acetyloxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-6-nitro-2H-1-benzazepin-2-one, monohydrochloride | Cl.C(C)(=O)O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C(=CC=C2)[N+](=O)[O-])CCN(C)C)=O | InChI=1S/C23H27N3O6.ClH/c1-15(27)32-22-18(16-8-10-17(31-4)11-9-16)14-19-20(6-5-7-21(19)26(29)30)25(23(22)28)13-12-24(2)3;/h5-11,18,22H,12-14H2,1-4H3;1H/t18-,22+;/m1./s1
